US08313504B2
A 1% w/w solution of epsilon-caprolactone/glycolide copolymer in 1,4-dioxane was prepared as follows. 1.5 grams of 36/64 poly(epsilon-caprolactone-glycolic acid) copolymer, obtained from American Polymer Incorporated (American Polymer Inc., Birmingham, Ala.), were added to 148.8 grams of 1,4-dioxane (Fisher Scientific, Raritan, N.J.) in a 250 milliliter Erlenmeyer screwed cap flask. The mixture was stirred for 4 hours in 60° C. water bath set on a temperature controlled heating plate. The polymer solution was filtered through an extra coarse thimble filter to remove any undissolved solids.

reactant | epsilon-caprolactone glycolic acid | C1(CCCCCO1)=O.C(CO)(=O)O
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 148.8 grams | O1CCOCC1 | C4H8O2
product | epsilon-caprolactone glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
